US07417064B2
b) 2-Fluoro-3-methoxy-benzaldehyde
To a solution of 2-fluoro-3,N-dimethoxy-N-methyl-benzamide (2.30 g, 10.8 mmol) in THF (20 mL) at −78° C. was added 1M DIBAL-H in toluene (12 mL, 12 mmol). The reaction stirred at −78° C. for 3 h and then the remaining 1M DIBAL-H in toluene (4.2 mL, 4.2 mmol) was added to the reaction. The reaction was allowed to stir at −78° C. for 30 min and was then warmed to rt. The reaction was quenched slowly with saturated aqueous NH4Cl. The organic phase was separated and the aqueous phase was extracted with 2×50 mL ethyl acetate. The combined organic phases were washed successively with 1N HCl and brine. The organic phase was dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography eluting silica gel with EtOAc:hexane [0:100 to 1:1] to yield the title compound (1.41 g, 85%): δH (300 MHz, CDCl3): 10.38 (1H, s), 7.43-7.40 (1H, m), 7.24-7.15 (2H, m), 3.95 (3H, s).

reactant | 2-fluoro-3,N-dimethoxy-N-methyl-benzamide | 10.8 mmol, 2.30 g | FC1=C(C(=O)N(C)OC)C=CC=C1OC | C10H12FNO3
reactant | DIBAL-H | 1M | CC(C)C[AlH]CC(C)C
reactant | toluene | 12 mmol, 12 mL | C1(=CC=CC=C1)C | C7H8
reactant | DIBAL-H | 1M | CC(C)C[AlH]CC(C)C
reactant | toluene | 4.2 mmol, 4.2 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-3-methoxy-benzaldehyde | 1.41 g, 85% | FC1=C(C=O)C=CC=C1OC | C8H7FO2
